US07122673B2
β,β-Dibromo-3-isopropoxy-4methoxystyrene:
Carbon tetrabromide (51.3 g, 154.7 mmol) was added portion-wise to a magnetically stirred mixture of zinc dust (10.1 g, 154.5 mmol) and PPh3 (40.5 g, 154.4 mmol) in CH2Cl2 (350 mL) maintained at 0° C. on an ice-salt bath. The resulting suspension was allowed to warm to room temperature and then stirred for a further 22 h. After this time the reaction mixture was re-cooled to 0° C. and isovanillin isopropyl ether (15.0 g, 77.3 mmol) was added dropwise over 2 min. The resulting mixture was allowed to stir at room temperature for 1 h then diluted with hexane (200 mL) and filtered through a No. 3 porosity sintered-glass funnel. The filtrate was concentrated on to silica gel (400–200 mesh, 30 g) and the resulting solid added to the top of a flash chromatography column (20 cm long×10 cm wide) which was subjected to gradient elution with 2:1, 1:1 then 1:2 hexane/CH2Cl2. Concentration of the appropriate fractions (Rf 0.5 in 1:1 hexane/CH2Cl2) afforded the title compound (27.0 g, 99%) as white crystalline masses, m.p. 67–69° C. νmax (KBr) 3009, 2975, 2929, 1597, 1572, 1508, 1463, 1441, 1429, 1373, 1301, 1276, 1260, 1233, 1144, 1110 and 999 cm−1. 1H n.m.r. δ 7.38 (s, 1H), 7.24 (d, J=2.1 Hz, 1H), 7.08 (dd, J=8.4 and 2.1 Hz, 1H), 6.84 (d, J=8.4 Hz, 1H), 4.53 (septet, J=6.0 Hz, 1H), 3.86 (s, 3H), 1.38 (d, J=6.0 Hz, 6H). 13{overscore (C)} n.m.r. δ 150.5 (C), 146.7 (C), 136.4 (CH), 127.7 (C), 122.1 (CH), 115.3 (CH), 111.3 (CH), 87.0 (C), 71.4 (CH), 55.8 (CH3), 22.0 (2×CH3). Mass spectrum m/z 352 (20) 350 (40) 348 (22) (M+•), 310 (50) 308 (100) 306 (50) [(M-C3H6)+•], 295 (30), 293 (61) 291 (33) [(M-C3H6—CH3+•)+]. Anal. Calcd for C12H14Br2O2 C, 41.2; H, 4.0; Br, 45.7. Found: C, 41.1; H, 3.7: Br, 45.3%.

reactant | Carbon tetrabromide | 154.7 mmol, 51.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 154.4 mmol, 40.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | isovanillin isopropyl ether | 77.3 mmol, 15.0 g | C(C)(C)OC=1C=C(C=O)C=CC1OC | C11H14O3
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 200 mL | CCCCCC | C6H14
catalyst | zinc | 154.5 mmol, 10.1 g | [Zn] | Zn
product | β,β-Dibromo-3-isopropoxy-4methoxystyrene | 27.0 g, 99% | BrC(=CC1=CC(=C(C=C1)OC)OC(C)C)Br | C12H14Br2O2
